US08071581B2
Compound 119: 3-Bromo-6-[1-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)-ethyl]-quinoline
2-Quinolin-6-yl-propionic acid hydrazide (intermediate 63) (500 mg, 2.32 mmol) was added to a stirred solution of 3-chloro-6-methylpyridazine (299 mg, 2.32 mmol) in n-butanol. The reaction mixture was heated at 120° C., overnight. The volatiles were removed in vacuo and the residue absorbed onto silica gel and purified by flash chromatography (SiO2, CH2Cl2:CH3OH 100:0-90:10) to obtain 6-[1-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)-ethyl]-quinoline (356 mg, 53% yield). To 6-[1-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)-ethyl]-quinoline (356 mg, 1.23 mmol) was added a dropwise solution of bromine (1.73 uL, 3.69 mmol) in acetic acid (3 mL). The reaction was heated at 100° C. for 2 hours. The reaction mixture was cooled to room temperature and the solvent removed in vacuo. A solution of 10% aq. NaSH (10 mL) was added and the product extracted with 10% methanol in dichloromethane. The organic phase was washed with 5% aqueous sodium sulfite. The filtrate was then concentrated in vacuo onto silica gel and purified by flash chromatography (SiO2, CH2Cl2:CH3OH 100:0-90:10) to return the title compound (168 mg, 37% yield). Analytical data presented in Table 1.

reactant | 6-[1-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)-ethyl]-quinoline | 1.23 mmol, 356 mg | CC=1C=CC=2N(N1)C(=NN2)C(C)C=2C=C1C=CC=NC1=CC2 | C17H15N5
reactant | bromine | 3.69 mmol, 1.73 uL | BrBr | Br2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 3-Bromo-6-[1-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)-ethyl]-quinoline | 168 mg, 37% yield | BrC=1C=NC2=CC=C(C=C2C1)C(C)C1=NN=C2N1N=C(C=C2)C | C17H14BrN5
